US06953790B2
Step D. 5-Fluoropyridine-2,3-diamine
The HCl salt of 3-azido-5-fluoropyridin-2-amine (1.90 g, 10.0 mmol) was dissolved in tetrahydrofuran (100 mL) and treated with MP-Carbonate (Argonaut, 11.5 g). After 1 h, the mixture was filtered, rinsed with more tetrahydrofuran, and concentrated. This residue was dissolved in ethanol (50 mL), purged with argon, and 10% palladium on carbon was added (0.15 g). Hydrogen was introduced (1 atm) and the reaction stirred until complete. The catalyst was filtered and the solvent evaporated from the filtrate to give the title compound (1.18 g). MS 128.0 (M+1).

reactant | HCl | Cl | ClH
reactant | 3-azido-5-fluoropyridin-2-amine | 10.0 mmol, 1.90 g | N(=[N+]=[N-])C=1C(=NC=C(C1)F)N | C5H4FN5
reactant | Carbonate | 11.5 g | C([O-])([O-])=O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 5-Fluoropyridine-2,3-diamine | 1.18 g | FC=1C=C(C(=NC1)N)N | C5H6FN3
